US09108938B2
2-Chloro-N-[2-(4-chloro-phenyl)-2-morpholin-4-yl-ethyl]-3-methyl-benzamide
From 2-chloro-3-methylbenzoic acid and 2-(4-chloro-phenyl)-2-morpholin-4-yl-ethylamine.

reactant | 2-chloro-3-methylbenzoic acid | ClC1=C(C(=O)O)C=CC=C1C | C8H7ClO2
reactant | 2-(4-chloro-phenyl)-2-morpholin-4-yl-ethylamine | ClC1=CC=C(C=C1)C(CN)N1CCOCC1 | C12H17ClN2O
product | 2-Chloro-N-[2-(4-chloro-phenyl)-2-morpholin-4-yl-ethyl]-3-methyl-benzamide | ClC1=C(C(=O)NCC(N2CCOCC2)C2=CC=C(C=C2)Cl)C=CC=C1C | C20H22Cl2N2O2
